US07655649B2
A solution of 4-[4-(1,3-dioxolan-2-yl)phenyl]-5-phenylpyrimidine-2-carbonitrile (165 mg, 0.501 mmol) in THF (7 mL) and 6N HCl (4 mL) was stirred at rt for 1 h. The reaction mixture was neutralized with sodium hydroxide and diluted with ethyl acetate (50 mL). The solution was washed with water (2×25 mL) and dried over magnesium sulfate. Hunig's base (1 mL) was added to the solution and it was then added to a solution of 4-(5-pyridin-2-yl-4H-1,2,4-triazol-3-yl)piperidinium trifluoroacetate (206 mg, 0.600 mmol) in dichloromethane (5 mL) and Hunig's base (1 mL). The reaction mixture was concentrated under reduced pressure and diluted with dichloromethane (10 mL). Sodium triacetoxyborohydride (320 mg, 1.509 mmol) was added and stirred over night. The reaction mixture was basified with sodium hydroxide, extracted with ethyl acetate (50 mL)j and purified on reverse phase HPLC to yield 5-phenyl-4-(4-{[4-(5-pyridin-2-yl-4H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)pyrimidine-2-carbonitrile as a solid. MS (EI) m/z 499 (M+1).

reactant | 4-[4-(1,3-dioxolan-2-yl)phenyl]-5-phenylpyrimidine-2-carbonitrile | 0.501 mmol, 165 mg | O1C(OCC1)C1=CC=C(C=C1)C1=NC(=NC=C1C1=CC=CC=C1)C#N | C20H15N3O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-(5-pyridin-2-yl-4H-1,2,4-triazol-3-yl)piperidinium trifluoroacetate | 0.600 mmol, 206 mg | FC(C(=O)[O-])(F)F.N1=C(C=CC=C1)C=1NC(=NN1)C1CC[NH2+]CC1
reactant | Sodium triacetoxyborohydride | 1.509 mmol, 320 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | HCl | 6N, 4 mL | Cl | ClH
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | Hunig's base | 1 mL | CCN(C(C)C)C(C)C | C8H19N
product | 5-phenyl-4-(4-{[4-(5-pyridin-2-yl-4H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)pyrimidine-2-carbonitrile | C1(=CC=CC=C1)C=1C(=NC(=NC1)C#N)C1=CC=C(C=C1)CN1CCC(CC1)C1=NN=C(N1)C1=NC=CC=C1 | C30H26N8
